US07435744B2
N-{4-[2-Oxo-2-(4-phenoxy-piperidin-1-yl)-ethylamino]-phenyl}-methanesulfonamide (45 70003206)
The title compound is prepared from (4-methanesulfonylamino-phenylamino)-acetic acid hydrochloride and 4-phenoxy-piperidine according to the method described in Example 1c. Melting Point: 179-182° C. (diethylether)

reactant | (4-methanesulfonylamino-phenylamino)-acetic acid hydrochloride | Cl.CS(=O)(=O)NC1=CC=C(C=C1)NCC(=O)O
reactant | 4-phenoxy-piperidine | O(C1=CC=CC=C1)C1CCNCC1 | C11H15NO
solvent | diethylether | C(C)OCC | C4H10O
product | N-{4-[2-Oxo-2-(4-phenoxy-piperidin-1-yl)-ethylamino]-phenyl}-methanesulfonamide | O=C(CNC1=CC=C(C=C1)NS(=O)(=O)C)N1CCC(CC1)OC1=CC=CC=C1 | C20H25N3O4S
